US03965220
To a reaction vessel there is added 113 g..phosphoryl chloride and 0.8 g. pyridine. Over a period of one hour, a total of 64 g. o-chlorophenol is added and the pot temperature is raised from 100° to 110°C. and held at 110°C. for one hour and then allowed to gradually cool to room temperature. The reaction mixture is stripped and there is obtained 108 g. product which affords, on distillation, 93.7 percent o-chlorophenyl phosphorodichloridate and 7.3 percent di-o-chlorophenyl phosphorochloridate.

reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | o-chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | o-chlorophenyl phosphorodichloridate | 93.7 percent | P(OC1=C(C=CC=C1)Cl)(=O)(Cl)Cl | C6H4Cl3O2P
